US04912098
2.0 g of 21-acetoxy-6α-methyl-17-propionyloxy-11β-trifluoroacetoxy-4-pregnene-3,20-dione is agitated in 50 ml of methanol and 2.5 ml of triethylamine for 4 hours at room temperature. The crude product is purified on 300 g of silica gel with a methylene chloride-acetone gradient (0-15% acetone), thus isolating 1.2 g of 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione.

reactant | 21-acetoxy-6α-methyl-17-propionyloxy-11β-trifluoroacetoxy-4-pregnene-3,20-dione | 2.0 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)OC(C(F)(F)F)=O)=O)C)OC(CC)=O)=O | C29H37F3O8
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 50 ml | CO | CH4O
product | 21-acetoxy-11β-hydroxy-6α-methyl-17-propionyloxy-4-pregnene-3,20-dione | 1.2 g | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3C[C@@H](C4=CC(CC[C@]4(C)[C@H]3[C@H](C[C@]12C)O)=O)C)OC(CC)=O)=O | C27H38O7
